US04401827
Pivaloyl carnitine hydrochloride
1.98 g (0.01 moles) of carnitine hydrochloride are dissolved in 3 mls of CF3COOH, and to the solution an excess (7 mls) of pivalic acid chloride is added. The solution is kept under stirring at room temperature for about 48 hours. At the end of this period of time, the mixture is diluted with 20 mls of acetone and some ether is slowly added till complete precipitation. The mixture is filtered and the precipitate which has the tendency to become hygroscopic is quickly washed with ether and dried under vacuum at the temperature of about 50° C. 1.70 g are obtained with a yield of 60% of a product having the following characteristics:

reactant | carnitine hydrochloride | 0.01 moles, 1.98 g | Cl.OC(C[N+](C)(C)C)CC([O-])=O
reactant | pivalic acid chloride | 7 mls | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | ether | CCOCC | C4H10O
solvent | CF3COOH | 3 mls | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetone | 20 mls | CC(=O)C | C3H6O
product | Pivaloyl carnitine hydrochloride | yield of 60% | Cl.C(C(C)(C)C)(=O)C(O)(C[N+](C)(C)C)CC([O-])=O | InChI=1S/C12H23NO4.ClH/c1-11(2,3)10(16)12(17,7-9(14)15)8-13(4,5)6;/h17H,7-8H2,1-6H3;1H
